### ISSUE TITLE
No automatic re-scan when sorries are added back after project is marked COMPLETE

### ISSUE THREAD

**Issue by TengshunYang** [frenzymath/Archon#17]
## Summary

When a project reaches `COMPLETE` status, `archon-loop.sh` exits immediately without checking actual code state. If a user later modifies `.lean` files — changing a proof back to `sorry`, editing a theorem statement, or adding new theorems — Archon has no way to detect the mismatch and will refuse to run.

This is a design gap: there is no watchdog, hook, or pre-flight check that compares live sorry count against the recorded stage in `PROGRESS.md`.

## Reproduction

1. Initialize a minimal Lean project and run Archon to completion:

```lean
namespace MinimalArchonExample

theorem addZeroRight (n : Nat) : n + 0 = n := by
  sorry

theorem zeroAddLeft (n : Nat) : 0 + n = n := by
  simp

end MinimalArchonExample
```

```bash
cd /path/to/Archon
./init.sh /path/to/project
./archon-loop.sh /path/to/project --max-iterations 3
```

Archon proves `addZeroRight`, marks project COMPLETE. `.archon/PROGRESS.md` now reads:

```
## Current Stage
COMPLETE
```

2. Manually revert the proof back to sorry:

```lean
theorem addZeroRight (n : Nat) : n + 0 = n := by
  sorry
```

3. Re-run Archon:

```bash
./archon-loop.sh /path/to/project --max-iterations 1
```

4. Observed behavior:

```
[ARCHON]  Project 'project' is COMPLETE. Nothing to do.
```

Archon exits immediately. The plan agent never runs, so the new sorry is never detected.

## Expected behavior

Archon should detect that `.lean` files contain sorries despite the project being marked COMPLETE, and either:
- Automatically revert the stage and re-enter the proving loop, or
- Warn the user about the mismatch and suggest how to proceed

## Suggestion

A lightweight pre-flight sorry check before the COMPLETE early-exit in `archon-loop.sh` could address this. For example, running `sorry_analyzer.py` and comparing the result against the recorded stage — if sorries exist but the stage is COMPLETE, either auto-revert or warn.
